US05854277
Preparation of 4-Ethoxybenzeneboronic Acid
A one-necked, 25-mL, round-bottomed flask equipped with a reflux condenser fitted with an argon inlet adapter was charged with magnesium powder (0.255 g, 10.5 mmol, -50 mesh), 7 mL THF, and 4-bromophenetol (1.41 g, 1.00 mL, 7.00 mmol). The resulting mixture was heated to reflux for 3 h. A second one-necked, 25-mL, round-bottomed flask equipped with a rubber septum and an argon inlet needle was charged with triisopropyl borate (3.95 g, 4.85 mL, 21.00 mmol) and cooled to -78° C. while the Grignard reagent prepared above was added dropwise via cannula over ca. 5 min. The cooling bath was removed and the reaction mixture was stirred for 3 h at room temperature. A mixture of ether (50 mL) and a 10% HCl solution (50 mL) was added and the resulting organic phase was washed with a 100-mL portion of water. The organic phase was dried over MgSO4, filtered, and concentrated to provide a yellow solid which was recrystallized from ether-hexanes to provide 0.783 g (67%) of a white solid:

reactant | magnesium | 10.5 mmol, 0.255 g | [Mg] | Mg
reactant | 4-bromophenetol | 7.00 mmol, 1.00 mL, 1.41 g | BrC1=CC=C(C=C1)OCC | C8H9BrO
reactant | triisopropyl borate | 21.00 mmol, 4.85 mL, 3.95 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-Ethoxybenzeneboronic Acid | 0.783 g, 67% | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
